US05523302
23a) 3-Methoxy-4-(2-t-butyloxy-2-oxo-ethoxy)benzaldehyde
Vanillin was alkylated with t-butyl bromoacetate in DMF in the presence of potassium carbonate the usual way to give a waxy solid. (quant.) mp 86.8°-90° C. MS(NH3): 284 (base, M+NH4).

reactant | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Methoxy-4-(2-t-butyloxy-2-oxo-ethoxy)benzaldehyde | COC=1C=C(C=O)C=CC1OCC(=O)OC(C)(C)C | C14H18O5
